Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
cough and chest pain 
 
Major Surgical or Invasive Procedure:
PEG replacement 

 
History of Present Illness:
___ yo M with ESRD on HD (MWF), HTN, HLD, recent dx of 
cricopharyngeal hypertrophy with placement of ___ for feeding 
(admitted to ___ ___ to ___, presenting from ___ 
rehab with cough, pleuritic chest pain, and temp to 100.4, found 
to have clogged feeding tube.

 Pt has been at ___ since his discharge from ___ on 
___. He had been progressing with his rehab ,and recently begun 
to walk again with assistance. For feeding, he has been 
receiving **cycled/bolus** tube feeds.
 Reports chest pain (severity ___ starting on ___ ___. Mostly 
___ chest pain, extending to abdomen to site of PEG tube. 
Pain is worse (severity ___ with coughing, moving, and deep 
breathing; denies positional changes. Denies taking any 
medications to try to alleviate pain. Endorses SOB on exertion 
but no difference recently. Reports mild cough. Denies sore 
throat or feeling feverish/chills recently. Denies headache, 
vision changes, n/v/c/d; has not urinated in ___ years. Pt 
reports that he had temp > 100 at rehab. At ___, report of 
TTE with pericardial effusion (no tamponade) and EKG with 
diffuse ST elevations. Also CXR with "retrocardiac opacity on 
lateral views could reflect pneumonia." Nurses decided to send 
him to hospital. 
 

In the ED:
- Initial vitals: Temp 98.2, HR 80, BP 108/60, RR 18, O2sat 
98%RA 
- Exam notable for: lung with decreased sounds throughout, 
crackles on L>R; rrr with systolic murmur
- Labs notable for:  trop 0.14 (0.13 on ___, WBC 10.1 (72% 
polys), H/H 8.9/27.9, lactate 1.0
- Imaging was notable for: 
 - EKG (my read): rate 82, PR 176, QRS 86, QTc 444; nsr, LAD, 
normal or slightly delayed R wave progression, no TWI or peaked 
T waves; ST elevations <1mm in I and aVL (not present on 
___, PR depressions in I, II, aVF, V2, V3 (not present on 
___
 
 - TTE: 
IMPRESSION: Moderate sized, circumferential pericardial effusion 
with preferential fluid deposition inferolateral to the left 
ventricle. Preserved biventricular systolic function. Moderate 
pulmonary artery systolic hypertension. Left pleural effusion 
appreciated.
 Compared with the report of the prior study (images unavailable 
for review) of ___, the pericardial effusion is new. The 
severity of mitral regurgitation has decreased.  
 
 - CHEST PLAIN FILM:
FINDINGS:  
The heart is enlarged but overall similar in size to the prior 
radiograph from ___. Increased opacity in the left lower 
lobe is concerning for pneumonia. There is no pneumothorax. If 
any there is small pleural effusion. Catheter is present in the 
upper abdomen. 
IMPRESSION:  
Left lower lobe pneumonia. 

- Patient was given:  
 - Azithro 500mg IV x2
 - CTX 1g IV x2
 - Vancomycin 1000mg IV x2
 - 2L NS

Upon arrival to the floor, patient confirms the history given 
above. 

 
Past Medical History:
-ESRD on HD MWF  
-HTN  
-Gout  
-Erectile dysfunction  
-Dysphagia
-Cricopharyngeal hypertonicity/hypertrophy
-___ diffuse idiopathic skeletal hyperostosis (DISH)
-Left subclavian steal syndrome
-Gastritis 
 
Social History:
___
Family History:
-Denies family hx of CAD, MI, CVA, kidney disease, cancer. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VITAL SIGNS: temp 97.9, BP 117/57, HR 73, RR 18, O2sat 97  
GENERAL: AOx3, NAD  
HENT: white plaque on tongue, no oropharyngeal erythema or 
exudates
EYES: no scleral icterus, no conjunctival injection 
NECK: supple
CARDIAC: rrr, normal S1 and S2, ___ systolic murmur at RUSB and 
along LSB; no rubs or gallops
LUNGS: ___ crackles most prominent at bases posteriorly; CTAB 
anteriorly 
ABDOMEN: soft, nt, nd, bs present; PEG tube in place with no 
surrounding erythema or exudates, overlying dressing c/d/i 
MSK: shoulder pain on shrug and sitting up in bed 
NEUROLOGIC: medial and lateral gaze intact, lacking upward and 
downward vertical gaze; other CN grossly intact; tactile 
sensation intact and ___ strength in BUE and BLE
SKIN: dry peeling skin on medial and lateral aspect of right 
ankle; no noted ulcerations

===========================

DISCHARGE PHYSICAL EXAM: 

VITAL SIGNS: temp 97.9, BP 151/63, HR 77, RR 18, O2sat 97 RA 
GENERAL: AOx3, NAD
HENT: lips dry, white plaque on tongue 
EYES: no scleral icterus or conjunctival injection; eyelids 
remain largely closed throughout exam 
NECK: supple
CARDIAC: rrr, normal S1 and S2, ___ holosystolic murmur along 
LSB 
LUNGS: bilateral basilar crackles on posterior auscultation
ABDOMEN: soft, nt, nd
NEUROLOGIC: ___ intact, moving all four extremities
SKIN: dry skin around left ankle, no signs of venous stasis  in 
BLE 

 
Pertinent Results:
ADMISSION LABS: 

___ 06:56AM BLOOD ___ 
___ Plt ___
___ 06:56AM BLOOD ___ 
___ Im ___ 
___
___ 06:56AM BLOOD ___ 
___
___ 06:56AM BLOOD ___
___ 06:56AM BLOOD ___
___ 06:56AM BLOOD ___
___ 06:56AM BLOOD ___
___ 07:02AM BLOOD ___

========================

DISCHARGE LABS:

___ 06:28AM BLOOD ___ 
___ Plt ___

========================

IMAGING / STUDIES:

ECHOCARDIOGRAM ___:

Findings 
  
This study was compared to the report of the prior study (images 
not available) of ___.   
LEFT ATRIUM: Normal LA size. 

RIGHT ATRIUM/INTERATRIAL SEPTUM: Mildly dilated RA. Normal IVC 
diameter (<=2.1cm) with >50% decrease with sniff (estimated RA 
pressure ___ mmHg). 

LEFT VENTRICLE: Normal LV wall thickness, cavity size and 
regional/global systolic function (LVEF >55%). No resting LVOT 
gradient. 

RIGHT VENTRICLE: Normal RV chamber size and free wall motion. 

AORTA: Normal aortic diameter at the sinus level. Mildly dilated 
ascending aorta. Normal aortic arch diameter. No 2D or Doppler 
evidence of distal arch coarctation. 

AORTIC VALVE: Mildly thickened aortic valve leaflets (3). No AS. 
No AR. 

MITRAL VALVE: Mildly thickened mitral valve leaflets. Mild 
mitral annular calcification. Eccentric MR ___. Mild (1+) MR. 

___ VALVE: Normal tricuspid valve leaflets. Mild [1+] TR. 
Moderate PA systolic hypertension. 

PULMONIC VALVE/PULMONARY ARTERY: Pulmonic valve not visualized. 
No PS. Physiologic PR. 

PERICARDIUM: Moderate pericardial effusion. Effusion 
circumferential. No RA diastolic collapse. No RV diastolic 
collapse. 

GENERAL COMMENTS: Left pleural effusion.   
Conclusions   
 The left atrium is normal in size. The estimated right atrial 
pressure is ___ mmHg. Left ventricular wall thickness, cavity 
size and regional/global systolic function are normal (LVEF 
>55%). Right ventricular chamber size and free wall motion are 
normal. The ascending aorta is mildly dilated. The aortic valve 
leaflets (3) are mildly thickened but aortic stenosis is not 
present. No aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. An eccentric, posteriorly 
directed jet of mild (1+) mitral regurgitation is seen. There is 
moderate pulmonary artery systolic hypertension. There is a 
moderate sized pericardial effusion measuring up to 1.5 cm in 
greatest dimension inferolateral to the left ventricle. Up to 
1.1 cm of pericardial fluid is appreciated anterior to the right 
atrium with trivial pericardial fluid accumulation anterior to 
the right ventricle. The effusion appears circumferential. No 
right atrial diastolic collapse is seen. No right ventricular 
diastolic collapse is seen. 

 IMPRESSION: Moderate sized, circumferential pericardial 
effusion with preferential fluid deposition inferolateral to the 
left ventricle. Preserved biventricular systolic function. 
Moderate pulmonary artery systolic hypertension. Left pleural 
effusion appreciated. 

 Compared with the report of the prior study (images unavailable 
for review) of ___, the pericardial effusion is new. The 
severity of mitral regurgitation has decreased.   

CXR ___:

FINDINGS:  
  
The heart is enlarged but overall similar in size to the prior 
radiograph from 
___.  Increased opacity in the left lower lobe is 
concerning for 
pneumonia.  There is no pneumothorax.  If any there is small 
pleural effusion. 
Catheter is present in the upper abdomen. 
  
IMPRESSION:  
  
Left lower lobe pneumonia. 

 
Brief Hospital Course:
___ with ESRD on HD (MWF), HTN, HLD, recent dx of 
cricopharyngeal hypertrophy with placement of ___ for feeding 
(admitted to ___ ___ to ___, presenting from ___ 
rehab with cough, pleuritic chest pain, and temp to 100.4 found 
to have LLL PNA. He also had a clogged PEG tube that was 
replaced by ___.

ACTIVE ISSUES
-------------
# HAP vs. aspiration pneumonia: 
# Atypical chest pain:
Productive cough and febrile at rehab. WBC 10.1 on admission. 
CXR in ED with LLL opacity c/w lobar PNA, received CTX and 
Azithro on ___ broadened to vancomycin/cefepime for HAP for 1 
day given HD and previous hospital exposure. Pt remained 
afebrile, hemodynamically stable throughout hospitalization and 
was converted to PO levofloxacin 500mg q48h after HD dosing 
(plan 5 day course, given on ___, last dose ___.

# ESRD: 
# Anemia:
ESRD ___ ___ HTN on HD MWF through LUE ___ 
since ___. Associated anemia with H/H stable over the last ___ 
months. Not on iron supplements. Ca/P are wnl. Patient received 
dialysis on ___ with 2 L removed. Discharge weight 61.1 kg. 
Continued EPO 5000 units qHD session, hectoral 2.5mcg qHD, 
cinacalcet 30 mg.

# Dysphagia
Hospitalized ___ for dysphagia, with extensive 
workup unrevealing; diagnosed with cricopharyngeal hyperplasia 
and PEG placed. PEG clogged on admission, successfully replaced 
by ___. Consulted nutrition for recommendations for tube feeds 
and plan to start, however patient was discharged prior to 
starting.

# Pericardial effusion: 
Incidental finding on echo at OSH, circumferential and moderate 
with no e/o tamponade. Most likely uremic effusion iso ESRD and 
potentially parapneumonic. Patient should have repeat ECHO in 
___ months and if effusion enlarges, consider cardiology 
referral for pericardiocentesis

CHRONIC ISSUES:

# Gastritis: Seen on EGD ___. Planning for 10 weeks of PPI 
BID. No signs of GI bleeding. H pylori stool negative. Continued 
home lansoprazole 30mg BID

# Essential hypertension:
# Carotid bruit/Subclavian steal: 
In ___, carotid dopplers w/ e/o left subclavian steal. 
Vascular surgery consulted at last hospitalization, decided no 
need for intervention. On ASCVD treatment and BP control. 
Currently stable. Continued home ASA, statin, and labetalol. 
Blood pressure remained well controlled. Could consider starting 
amlodipine 5mg if hypertensive at rehab.

# Back Pain: Chronic, stable. On Tylenol and doing ___ at rehab. 
Continued Tylenol in house. 

# Gout: H/o gout in left first metatarsal. Stable. Continued 
Allopurinol 

# Depression: Stable, started on Mirtazapine in ___. 
Continued home Mirtazapine 7.5 mg

=======================
TRANSITIONAL ISSUES:
=======================

MEDICATIONS:
- New Meds: Levaquin 500mg q48hr (total 5d course ___
- Stopped Meds: None

___ 
- Follow up: PCP
- ___ required after discharge: None
- Incidental findings: 
1) moderate circumferential pericardial effusion, no tamponade, 
normal systolic function

OTHER ISSUES:
- Discharge weight: 61.1 kg 
- ESRD: Last HD on ___ with 2L fluid removed
- Pericardial effusion- Patient should have repeat ECHO within 
___ months and if effusion is enlarging, consider cardiology 
referral for pericardiocentesis to determine etiology

# CODE: DNR/DNI
# CONTACT: ___ (son/HCP) ___
(daughter in law) ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1300 mg PO BID 
2. Aspirin 81 mg PO DAILY 
3. Allopurinol ___ mg PO DAILY 
4. Cinacalcet 30 mg PO DAILY 
5. Thiamine 100 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. FoLIC Acid 1 mg PO DAILY 
8. Atorvastatin 40 mg PO QPM 
9. Labetalol 100 mg PO BID 
10. Lidocaine 5% Patch 1 PTCH TD QAM 
11. Mirtazapine 7.5 mg PO QHS 
12. Lansoprazole Oral Disintegrating Tab 30 mg Other BID 

 
Discharge Medications:
1.  Levofloxacin 500 mg PO Q48H 
Take one pill on ___ after HD, then done 
RX *levofloxacin 500 mg 1 tablet(s) by mouth q48h Disp #*1 
Tablet Refills:*0 
2.  Acetaminophen (Liquid) 640 mg PO Q6H:PRN Pain - Mild  
3.  Allopurinol ___ mg PO DAILY  
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 40 mg PO QPM  
6.  Cinacalcet 30 mg PO DAILY  
7.  Docusate Sodium 100 mg PO BID:PRN constipation  
8.  FoLIC Acid 1 mg PO DAILY  
9.  Labetalol 100 mg PO BID  
10.  Lansoprazole Oral Disintegrating Tab 30 mg Other BID  
11.  Lidocaine 5% Patch 1 PTCH TD QAM  
12.  Mirtazapine 7.5 mg PO QHS  
13.  Multivitamins 1 TAB PO DAILY  
14.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
15.  Senna 17.2 mg PO QHS:PRN constipation  
16.  Thiamine 100 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
___ Rehabilitation and ___ Care)
 
Discharge Diagnosis:
1) Pneumonia
# Atypical chest pain: 
# End stage renal disease:
# Dysphagia
# Gastritis:
# Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,

You came to ___ because you were coughing, had chest pain and 
a fever. You were found to have pneumonia. Please see more 
details listed below about what happened while you were in the 
hospital and your instructions for what to do after leaving the 
hospital.

It was a pleasure participating in your care. We wish you the 
best! 

Sincerely,
Your ___ Care Team

WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL:
- You were given antibiotics through the IV
- Your feeding tube was found to be clogged and was replaced
- You improved considerably and were ready to leave the hospital

WHAT SHOULD YOU DO WHEN YOU LEAVE THE HOSPITAL:
- Please follow up with your primary care doctor and other 
health care providers (see below)
- Please take all of your medications as prescribed (see below).
- Seek medical attention if you have chest pain that is worse, 
difficulty breathing, or other symptoms of concern. 
 
Followup Instructions:
___